US07524841B2
After dissolving 60% NaH-in-oil (5.28 g, 132 mmol) in DMSO (dimethylsulfoxide) (250 mL) cooled to 0° C., trimethylsulfonium iodide (29.0 g, 132 mmol) was added. The reaction mixture was then raised to room temperature and the mixture was stirred for 40 minutes. N-Boc-piperidone (Boc=tert-butoxycarbonyl) (25.0 g, 125 mmol) was added to the reaction mixture, which was then stirred at room temperature for 1 hour and then at 55° C. for 1.5 hours. Next, the reaction mixture was poured into ice-cooled water (500 mL) and was extracted with AcOEt (ethyl acetate) (500 ml×3 times). The organic layer obtained by combining the ethyl acetate layers was washed with water and then with saturated brine, and then dried over anhydrous Na2SO4. After filtration, the filtrate was concentrated to obtain 6-aza-1-oxaspiro[2.5]octane-6-carboxylic acid tert-butyl ester. The compound was identified by 1H-NMR. The yield was 26.4 g (99%).

reactant | NaH | 132 mmol, 5.28 g | [H-].[Na+]
reactant | trimethylsulfonium iodide | 132 mmol, 29.0 g | [I-].C[S+](C)C
reactant | N-Boc-piperidone | 125 mmol, 25.0 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | water | 500 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 250 mL | CS(=O)C | C2H6OS
product | 6-aza-1-oxaspiro[2.5]octane-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
